US04577016
A solution of 2-methyl-3-mercapto-6-hydroxy-2,5-dihydro-1,2,4-triazin-5-one (0.8 g) in dry tetrahydrofuran (25 ml) was stirred for 30 min with triethylamine (0.835 ml) and tert-butyldiphenylsilylchloride (1.53 ml). The reaction mixture was partitioned between 1% aqueous NaHCO3 and ethyl acetate. Removal of the solvent from the dried organic layer left a residue which crystallized by trituration with light petrol affording 2-methyl-3-mercapto-6-tert-butyldiphenylsilyloxy-2,5-dihydro-1,2,4-triazin-5-one (1.34 g), m.p. 135° C. (decomp.).

reactant | 2-methyl-3-mercapto-6-hydroxy-2,5-dihydro-1,2,4-triazin-5-one | 0.8 g | CN1N=C(C(N=C1S)=O)O | C4H5N3O2S
reactant | triethylamine | 0.835 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldiphenylsilylchloride | 1.53 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-mercapto-6-tert-butyldiphenylsilyloxy-2,5-dihydro-1,2,4-triazin-5-one | 1.34 g | CN1N=C(C(N=C1S)=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C20H23N3O2SSi
